US08492387B2
To a solution of 4-{(1S)-1-(4-methoxylphenyl)-2-[4-(trifluoromethyl)phenyl]ethyl}-1H-imidazole-2-amine (0.05 g, 0.14 mmol) in H2O (1 mL) and THF (0.5 mL) was added benzaldehyde (0.018 g, 0.17 mmol) and sodium carbonate (0.01 g, 0.08 mmol). The reaction was stirred at room temperature for 12 h. The reaction was concentrated and purified by RP HPLC to provide (2-amino-4-{(1S)-1-(4-methoxyphenyl)-2-[4-(trifluoromethyl)phenyl]ethyl}-1H-imidazole-5-yl) (phenyl)methanol (0.01 g, 14%).

reactant | 4-{(1S)-1-(4-methoxylphenyl)-2-[4-(trifluoromethyl)phenyl]ethyl}-1H-imidazole-2-amine | 0.14 mmol, 0.05 g | O(C)C1=CC=C(C=C1)[C@H](CC1=CC=C(C=C1)C(F)(F)F)C=1N=C(NC1)N | C19H18F3N3O
reactant | benzaldehyde | 0.17 mmol, 0.018 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium carbonate | 0.08 mmol, 0.01 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | H2O | 1 mL | O | H2O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | (2-amino-4-{(1S)-1-(4-methoxyphenyl)-2-[4-(trifluoromethyl)phenyl]ethyl}-1H-imidazole-5-yl) (phenyl)methanol | 0.01 g, 14% | NC=1NC(=C(N1)[C@@H](CC1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)OC)C(O)C1=CC=CC=C1 | C26H24F3N3O2
